US08486968B2
(c) N-(trans-4-Trifluoromethyl-cyclohexyl)-6-methylamino-5-amino-2-(4-fluoro-piperidinyl)-nicotinic acid amide
A mixture of N-(trans-4-trifluoromethyl-cyclohexyl)-6-methylamino-5-nitro-2-(4-fluoro-piperidinyl)-nicotinic acid amide (100 mg, 0.22 mmol), Pd/C (50 mg) and THF (15 mL) is stirred under 50 psi H2-atmosphere for 3 h. The mixture is filtered, and the filtrate is concentrated. HPLC Rt=1.28 min (method B). MS m/z: 418 [M+H]+.

reactant | N-(trans-4-trifluoromethyl-cyclohexyl)-6-methylamino-5-nitro-2-(4-fluoro-piperidinyl)-nicotinic acid amide | 0.22 mmol, 100 mg | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)[N+](=O)[O-])NC)N1CCC(CC1)F)=O)(F)F | C19H25F4N5O3
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(trans-4-Trifluoromethyl-cyclohexyl)-6-methylamino-5-amino-2-(4-fluoro-piperidinyl)-nicotinic acid amide | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)N)NC)N1CCC(CC1)F)=O)(F)F | C19H27F4N5O
